US04021562
A mixture of 4-chloro-2,6-bis(ethoxycarbonylamino)pyridine 1-oxide (10.0 g., 0.03 mole) and 60 ml. of morpholine is refluxed with stirring under a nitrogen atmosphere for a period of 24 hrs. and concentrated to dryness. The residual material thus obtained is taken up in 200 ml. of absolute ethanol and 24.0 g. (0.36 mole) of 85% potassium hydroxide. After stirring at reflux temperature for a period of 16 hr., 200 ml. of absolute ethanol is added and reflux continued for an additional period of 30 hr. Concentration of the basic solution to dryness provides a residue which on stirring with water affords 4.4 g. (69% yield) of 2,6-diamino-4-(4-morpholinyl)pyridine 1-oxide as the free base, m.p. 315°-325° C. (dec.). The free base is taken up in absolute ethanol and acidified with ethanolic hydrogen chloride. Addition of ethyl acetate to the acidified ethanolic solution and cooling affords the product which is collected and crystallized from absolute ethanol to provide 2.8 g. of analytically pure 2,6-diamino-4-(4-morpholinyl)pyridine 1-oxide hydrochloride hydrate, m.p. 203.5°-206.5° C. (dec.) (corr.).

reactant | 4-chloro-2,6-bis(ethoxycarbonylamino)pyridine 1-oxide | 0.03 mole, 10.0 g | ClC1=CC(=[N+](C(=C1)NC(=O)OCC)[O-])NC(=O)OCC | C11H14ClN3O5
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | ethanol | C(C)O | C2H6O
reactant | potassium hydroxide | 0.36 mole | [OH-].[K+]
solvent | water | O | H2O
product | 2,6-diamino-4-(4-morpholinyl)pyridine 1-oxide | 69% yield | NC1=[N+](C(=CC(=C1)N1CCOCC1)N)[O-] | C9H14N4O2
